US07332501B2
To a stirred solution of 0.50 g (3.10 mmol) 2-methyl-1H-indole-3-carboxylic acid (described in J. Heterocyclic Chem. 1977, 14, 1123) in 5 ml DMF was added 0.27 g (6.75 mmol) of NaH (60% in oil). The mixture was stirred at RT for 30 min. and then 0.39 ml (3.28 mmol) of benzyl bromid was added. The mixture was stirred an additional hour and then poured onto water and extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Crystallization in Et2O afforded 1-Benzyl-2-methyl-1H-indole-3-carboxylic acid.

reactant | 2-methyl-1H-indole-3-carboxylic acid | 3.10 mmol, 0.50 g | CC=1NC2=CC=CC=C2C1C(=O)O | C10H9NO2
reactant | NaH | 6.75 mmol, 0.27 g | [H-].[Na+]
reactant | benzyl bromid | 3.28 mmol, 0.39 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-2-methyl-1H-indole-3-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C17H15NO2
